US06008230
To a solution of 4-(2-acetyl-2-methylhydrazino)-8-(2,6-dichlorobenzoylamino)quinoline (140 mg) in N-methylpyrrolidone (1.5 ml) was added potassium tert-butoxide (40.9 mg) under ice-cooling, and the mixture was stirred for 30 minutes at the same temperature. Methyl iodide (59.1 mg) was added thereto under ice-cooling, and the mixture was stirred for 12 hours at ambient temperature. The mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (methanol-dichloromethane) and recrystallized from ethanol to give 4-(2-acetyl-1,2-dimethylhydrazino)-8-(2,6-dichlorobenzoylamino)quinoline (62 mg).

reactant | 4-(2-acetyl-2-methylhydrazino)-8-(2,6-dichlorobenzoylamino)quinoline | 140 mg | C(C)(=O)N(NC1=CC=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C | C19H16Cl2N4O2
reactant | potassium tert-butoxide | 40.9 mg | CC(C)([O-])C.[K+]
reactant | Methyl iodide | 59.1 mg | CI | CH3I
solvent | N-methylpyrrolidone | 1.5 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-acetyl-1,2-dimethylhydrazino)-8-(2,6-dichlorobenzoylamino)quinoline | 62 mg | C(C)(=O)N(N(C)C1=CC=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C | C20H18Cl2N4O2
